US08357694B2
This was synthesized by using 4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate instead of 44643-bromophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate and N-methylbutylamine in place of piperidine as described in general procedure 2 to afford N-(4-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine 1H NMR 400 MHz (CDCl3) δ 13.14 (s, 1H), 10.31 (br s, 1H), 8.42-8.36 (m, 1H), 8.0 (s, 1H), 7.74 (d, J=8.6 Hz, 2H), 7.62-7.5 (m, 2H), 7.39-7.27 (m, 1H), 7.19 (d, J=1.9 Hz, 1H), 7.09-7.06 (m, 1H), 6.92-6.8 (m, 1H), 4.33 (t, J=6.3 Hz, 1H), 3.58-2.9 (m, 8H), 2.85 (s, 3H), 1.84-1.68 (m, 2H), 1.5-1.35 (m, 2H), 0.98 (t, J=7.4 Hz, 2H). LCMS m/e 531 (M+H).

reactant | 4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3 | C27H23Cl2N3O3S
reactant | phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=CC=C1 | C9H12O3S
reactant | N-methylbutylamine | CNCCCC | C5H13N
product | N-(4-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine | C(CCC)N(CCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3)C | C31H32Cl2N4
